US09126940B2
Ethyl 4-((1E,4E)-2-(tert-butoxycarbonylamino)-4-((3-(tert-butyldimethylsilyloxy)propyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)benzoate (0.050 g, 0.075 mmol) was dissolved in 2 mls of dichloromethane and 0.5 ml of TFA. After about one hour, the mixture was concentrated under reduced pressure and the resulting residue was then re-dissolved in dichloromethane and 1 ml of concentrated ammonium hydroxide added and the mixture vigorously stirred for 15 minutes. This mixture was then diluted with water, extracted with dichloromethane (2×), extracts dried over sodium sulfate and concentrated under reduced pressure. Preparative thin layer chromatography (2×0.5 mm plates, 10% MeOH/DCM/0.5% NH4OH) afforded 0.012 g (35%) of ethyl 4-((1E,4E)-2-amino-4-((3-hydroxypropyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)benzoate.

reactant | Ethyl 4-((1E,4E)-2-(tert-butoxycarbonylamino)-4-((3-(tert-butyldimethylsilyloxy)propyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)benzoate | 0.075 mmol, 0.050 g | C(C)(C)(C)OC(=O)N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C2=CC=C(C(=O)OCC)C=C2)\C(N(CCC)CCCO[Si](C)(C)C(C)(C)C)=O | C37H53N3O6Si
solvent | dichloromethane | 2 mls | ClCCl | CH2Cl2
solvent | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | ethyl 4-((1E,4E)-2-amino-4-((3-hydroxypropyl)(propyl)carbamoyl)-3H-benzo[b]azepin-8-yl)benzoate | 0.012 g, 35% | N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C2=CC=C(C(=O)OCC)C=C2)\C(N(CCC)CCCO)=O | C26H31N3O4
